US07989497B2
6-Chloro-N-ethyl-3-[2-(1-ethyl-propylamino)-3,4-dioxo-cyclobut-1-enylamino]-2-hydroxy-N-methoxy-benzenesulfonamide
To a stirred solution of 6-Chloro-3-(2-ethoxy-3,4-dioxo-cyclobut-1-enylamino)-2-hydroxy-N-methoxy-N-ethyl-benzenesulfonamide (Intermediate FA) (100 mg, 0.25 mmol) in THF (2 ml) was added 3-aminopentane (29 mg, 0.25 mmol) The reaction mixture was heated at 50° C. overnight. Further 3-aminopentane (29 mg, 0.25 mmol) was added and the reaction was heated at 50° C. for 7 hours. The reaction mixture was concentrated in vacuo and dissolved in EtOAc. The EtOAc solution was washed with 10% citric acid (aq), brine, dried (sodium sulfate) and concentrated in vacuo to give a solid; [M+H]+ 446.1. 1H NMR (DMSO) 0.9 (6H, t, 2×CH3), 1.2 (3H, t, CH3), 1.5 (2H, m), 1.6 (2H, m), 3.3 (2H, m), 3.7 (3H, s, CH3), 3.9 (1H, m), 7.2 (1H, d), 8.1 (1H, d), 8.3 (1H, d), 9.4 (1H, s), 10.2 (1H, s).

reactant | 6-Chloro-3-(2-ethoxy-3,4-dioxo-cyclobut-1-enylamino)-2-hydroxy-N-methoxy-N-ethyl-benzenesulfonamide | 0.25 mmol, 100 mg | ClC1=CC=C(C(=C1S(=O)(=O)N(CC)OC)O)NC1=C(C(C1=O)=O)OCC | C15H17ClN2O7S
reactant | 3-aminopentane | 0.25 mmol, 29 mg | NC(CC)CC | C5H13N
reactant | 3-aminopentane | 0.25 mmol, 29 mg | NC(CC)CC | C5H13N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 6-Chloro-N-ethyl-3-[2-(1-ethyl-propylamino)-3,4-dioxo-cyclobut-1-enylamino]-2-hydroxy-N-methoxy-benzenesulfonamide | ClC1=CC=C(C(=C1S(=O)(=O)N(OC)CC)O)NC1=C(C(C1=O)=O)NC(CC)CC | C18H24ClN3O6S
